US05456846
A mixture of methyl glycerate (2 g, 0.17 moles) and bromoethanol (5.28 g, 0.42 moles was heated at 60° C. under nitrogen in the presence of a catalytic amount of p-toluene sulfonic acid for 10 h. The excess bromoethanol was removed on rotary evaporator under reduced pressure. The crude mixture was diluted with large volume of chloroform (100 mL) and the free acid was neutralized by adding anhydrous sodium carbonate. Filtration and removal of the solvent gave the crude product which was purified by chromatography on a silica gel column eluting with chloroform:methanol (9:1). Removal of the solvent on a rotary evaporator gave bromoethyl glycerate (3.26 g, 92% yield) which showed the following characteristics: 1H NMR (200 MHz, CDCl3), δ 3.52 (m, 2H, CH2Br), 3.90 (m, 2H,CO2CH2), 4.27 (s, 2H, OH), 4.36 (m, 2H, CH2OH), 4.52 (m, 1H, CH), 13C NMR (50 MHz, CDCl3) δ 28.42, 63.76, 64.50, 71.58, 172.13.

reactant | methyl glycerate | 0.17 moles, 2 g | C(C(O)CO)(=O)OC | C4H8O4
reactant | bromoethanol | BrC(C)O | C2H5BrO
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | bromoethyl glycerate | 3.26 g, 92% yield | C(C(O)CO)(=O)OCCBr | C5H9BrO4
